US07115596B2
Ethyl 3-[2-(4-chlorophenyl)-1,3-thiazol-5-yl]-4-{2-[3-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)propyl]-1,3-thiazol-4-yl}butanoate hydrochloride
thyl 6-chloro-3-[2-(4-chlorophenyl)-1,3-thiazol-5-yl]-5-oxohexanoate, Scheme 2, Example A, (230 mg, 0.595 mmol) and 4-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)butanethioamide, Scheme 3, Step 1, (140 mg, 0.595 mmol) was dissolved in 1,4-dioxane (5 mL) and heated to 120° C. for 18 hours. The solvent was removed and the residue purified via reverse phase HPLC to give the product (180 mg, 44%). 1H NMR (DMSO-d6) δ1.10 (t, 3H), 1.77–1.85 (m, 2H), 2.02–2.11 (m, 2H), 2.68–2.90 (m, 6H), 2.95–3.18 (m, 4H), 3.38–3.46 (m, 2H), 3.86–3.95 (m, 2H), 4.00 (q, 2H), 6.55 (d, 1H), 7.18 (s, 1H), 7.48–7.55 (m, 2H), 7.57 (d, 1H), 7.62 (s, 1H), 7.80–7.85 (m, 2H).

reactant | 6-chloro-3-[2-(4-chlorophenyl)-1,3-thiazol-5-yl]-5-oxohexanoate | ClCC(CC(CC(=O)[O-])C1=CN=C(S1)C1=CC=C(C=C1)Cl)=O
reactant | 4-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)butanethioamide | N1=C(C=CC=2CCCNC12)CCCC(N)=S | C12H17N3S
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | Ethyl 3-[2-(4-chlorophenyl)-1,3-thiazol-5-yl]-4-{2-[3-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)propyl]-1,3-thiazol-4-yl}butanoate hydrochloride | 180 mg, 44% | Cl.ClC1=CC=C(C=C1)C=1SC(=CN1)C(CC(=O)OCC)CC=1N=C(SC1)CCCC1=NC=2NCCCC2C=C1 | InChI=1S/C29H31ClN4O2S2.ClH/c1-2-36-27(35)16-21(25-17-32-29(38-25)20-8-11-22(30)12-9-20)15-24-18-37-26(33-24)7-3-6-23-13-10-19-5-4-14-31-28(19)34-23;/h8-13,17-18,21H,2-7,14-16H2,1H3,(H,31,34);1H
